US07279600B2
3-Fluoro-4′-hydroxy-1,1′-biphenyl-4-carbaldehyde oxime
The title compound was prepared by reacting 3-fluoro-4′-hydroxy-1,1′-biphenyl-4-carbaldehyde (154 mg, 0.713 mmol) with hydroxylamine hydrochloride (99 mg, 1.43 mmol) according to Method C to yield 156 mg (95%) of yellowish solid: mp 181-183° C.; 1H NMR (DMSO-d6): δ 6.84-6.87 (2H, m), 7.48-7.53 (2H, m), 7.57-7.60 (2H, m), 7.76 (1H, t, J=8.14 Hz), 8.22 (1H, s), 9.74 (1H, s), 11.56 (1H, s); MS (ESI) m/z 230 (M−H)−, 232 (M+H)+.

reactant | 3-fluoro-4′-hydroxy-1,1′-biphenyl-4-carbaldehyde | 0.713 mmol, 154 mg | FC=1C=C(C=CC1C=O)C1=CC=C(C=C1)O | C13H9FO2
reactant | hydroxylamine hydrochloride | 1.43 mmol, 99 mg | Cl.NO
product | 3-Fluoro-4′-hydroxy-1,1′-biphenyl-4-carbaldehyde oxime | FC=1C=C(C=CC1C=NO)C1=CC=C(C=C1)O | C13H10FNO2
